US05102895
4.2 g of the 1,4-bis(benzyloxy)-2,3-epoxybutane thus obtained was dissolved in a mixture comprising 120 ml of tetrahydrofuran and 30 ml of water. Then 30 ml of an aqueous solution containing 6 ml of 60% perchloric acid was added dropwise thereto under ice-cooling and stirring. After stirring at the same temperature for additional 4 hours, the reaction mixture was poured into ice/water and extracted with ether. The extract was washed with water and dried. After distilling off the solvent, the obtained oily residue was purified by column chromatography (silica gel, hexane/ethyl acetate) to thereby give 2.7 g of 1,4-bis(benzyloxy)-2,3-butanediol as a colorless liquid.

reactant | 1,4-bis(benzyloxy)-2,3-epoxybutane | 4.2 g | C(C1=CC=CC=C1)OCC1C(COCC2=CC=CC=C2)O1 | C18H20O3
reactant | perchloric acid | 6 ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | 1,4-bis(benzyloxy)-2,3-butanediol | 2.7 g | C(C1=CC=CC=C1)OCC(C(COCC1=CC=CC=C1)O)O | C18H22O4
